US06841671B2
A mixture of 1-[6-(4-Vinyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester (4.8 g, 11.3 mmol), sodium metaperiodate (4.8 g, 22 mmol), osmium tetroxide (10 mg) and 2:1 dioxane-water (189 mL) was stirred for 6 hours at ambient temperature. The mixture was quenched with sodium sulfite, diluted with water and extracted 3× with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated in vacuo affording 1-[6-(4-Formyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester as a colorless syrup (4.6 g).

reactant | 1-[6-(4-Vinyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 11.3 mmol, 4.8 g | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=C)C(=O)OCC | C23H26N2O5
reactant | sodium metaperiodate | 22 mmol, 4.8 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | 10 mg | [Os](=O)(=O)(=O)=O
solvent | dioxane water | 189 mL | O1CCOCC1.O
product | 1-[6-(4-Formyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 4.6 g | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=O)C(=O)OCC | C22H24N2O6
